US09145391B2
To a flask was added methyltriphenylphosphonium bromide (444 mg, 1.24 mmol) and THF (3.1 mL). The mixture was cooled to 0° C., and potassium tert-butoxide (1.0 M in THF, 1.39 mL, 1.39 mmol) was added. The mixture was stirred at 0° C. for 30 minutes. A solution of methyl trans-4-[(4-methyl-6-{[4-(trifluoromethyl)pyridin-2-yl]amino}-2,3′-bipyridin-6′-yl)carbonyl]cyclohexanecarboxylate (310 mg, 0.622 mmol) in THF (2 mL) was added dropwise at 0° C., and the mixture was stirred at 0° C. for 30 minutes. The reaction was diluted with ethyl acetate and water, and the mixture was extracted with ethyl acetate. The combined organic fractions were washed with brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel, eluting with EtOAc/hexane (0-60%) to afford methyl trans-4-[1-(4-methyl-6-{[4-(trifluoromethyl)pyridin-2-yl]amino}-2,3′-bipyridin-6′-yl)ethenyl]cyclohexanecarboxylate as a white solid. MS ESI calcd. for C27H28F3N4O2 [M+H]+ 497. found 497.

reactant | potassium tert-butoxide | 1.39 mmol, 1.0 M, 1.39 mL | CC(C)([O-])C.[K+]
reactant | methyl trans-4-[(4-methyl-6-{[4-(trifluoromethyl)pyridin-2-yl]amino}-2,3′-bipyridin-6′-yl)carbonyl]cyclohexanecarboxylate | 0.622 mmol, 310 mg | CC1=CC(=NC(=C1)NC1=NC=CC(=C1)C(F)(F)F)C=1C=NC(=CC1)C(=O)[C@@H]1CC[C@H](CC1)C(=O)OC | C26H25F3N4O3
catalyst | methyltriphenylphosphonium bromide | 1.24 mmol, 444 mg | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | THF | 3.1 mL | C1CCOC1 | C4H8O
product | methyl trans-4-[1-(4-methyl-6-{[4-(trifluoromethyl)pyridin-2-yl]amino}-2,3′-bipyridin-6′-yl)ethenyl]cyclohexanecarboxylate | CC1=CC(=NC(=C1)NC1=NC=CC(=C1)C(F)(F)F)C=1C=NC(=CC1)C(=C)[C@@H]1CC[C@H](CC1)C(=O)OC | C27H27F3N4O2
